US04818755
Step 1. 5-(α-Bromoacetyl)oxindole
A solution of bromoacetyl chloride (14.17 g) in methylene chloride (30 ml) is added dropwise to a stirred suspension of oxindole (6 g) and AlCl3 (13.31 g) in methylene chloride (200 ml). The reaction mixture is refluxed for 4 hours, cooled to RT, poured with stirring into an ice/water mixture, stirred for 30 minutes, filtered and washed with methylene chloride yielding the desired product as a solid which is recrystallized from isopropanol.

reactant | bromoacetyl chloride | 14.17 g | BrCC(=O)Cl | C2H2BrClO
reactant | oxindole | 6 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | AlCl3 | 13.31 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-(α-Bromoacetyl)oxindole | BrCC(=O)C=1C=C2CC(NC2=CC1)=O | C10H8BrNO2
